US07425568B2
2-(2,4-Dichlorophenyl)-6-hydroxychroman-4-one was prepared as described for 2-(3-fluorophenyl)-6-hydroxychroman-4-one in Example 9(a) starting from 1.0 g of 2′,5′-dihydroxyacetophenone and 1.4 g of 2,4-dichlorobenzaldehyde. The product was recrystallised from acetic acid. 1H NMR (400 MHz, d6-DMSO) δ: 9.49 (s, 1H), 7.78 (d, 1H, J 8.5 Hz), 7.71(d, 1H, J 2.0 Hz), 7.57 (dd, 1H, J 8.5, 2.0 Hz), 7.14 (d, 1H, J 3.0 Hz), 7.06 (dd, 1H, J 8.8, 3.0 Hz), 6.97 (d, 1H, J 8.8 Hz), 5.77 (dd, 1H, J 13.5, 2.7 Hz), 3.18 (dd, 1H, J −16.9, 13.5 Hz), 2.78 (dd, 1H, J −16.9, 2.7 Hz).

reactant | 2-(3-fluorophenyl)-6-hydroxychroman-4-one | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11FO3
reactant | 2′,5′-dihydroxyacetophenone | 1.0 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 2,4-dichlorobenzaldehyde | 1.4 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
product | 2-(2,4-Dichlorophenyl)-6-hydroxychroman-4-one | ClC1=C(C=CC(=C1)Cl)C1OC2=CC=C(C=C2C(C1)=O)O | C15H10Cl2O3
